US05859053
b) [2S]-1,4-Dioxa-spiro-[4,5]dec-2-yl-methyl 2-acetoxybenzoate
The solution from 2-acetoxy-benzoic acid (0.6 g, 3.33 mmol) in ethanol (3.5 ml) is treated with a solution of caesium carbonate (0.54 g, 1.67 mmol) in water (35 ml) and stirred. After 30 min, the mixture is freeze-dried. The residue is added with stirring to a solution of [2S]-1,4-dioxa-spiro[4,5]dec-2-yl-methyl trifluoromethanesulphonate (1.15 g, 3.79 mmol) in N,N-dimethylformamide (10 ml). After 16 h at 20° C., the mixture is concentrated, the residue is taken up in dichloromethane (50 ml), and the solution is washed twice with water, dried over magnesium sulphate and concentrated. The residue is purified by column chromatography (toluene/ethyl acetate=50/1). Yield: 601 mg.

reactant | 2-acetoxy-benzoic acid | 3.33 mmol, 0.6 g | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | caesium carbonate | 1.67 mmol, 0.54 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | [2S]-1,4-dioxa-spiro[4,5]dec-2-yl-methyl trifluoromethanesulphonate | 3.79 mmol, 1.15 g | FC(S(=O)(=O)OC[C@H]1OC2(OC1)CCCCC2)(F)F | C10H15F3O5S
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
solvent | water | 35 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [2S]-1,4-Dioxa-spiro-[4,5]dec-2-yl-methyl 2-acetoxybenzoate | C(C)(=O)OC1=C(C(=O)OC[C@H]2OC3(OC2)CCCCC3)C=CC=C1 | C18H22O6
